US08445509B2
Production of 6-(3-fluorophenyl)-5-methylpyridine-2-carbonitrile
A solution (40 mL) of 2-(3-fluorophenyl)-3-methylpyridine 1-oxide (4.26 g, 21.0 mmol), dimethylcarbamic acid chloride (2.94 g, 27.3 mmol) and trimethylsilanecarbonitrile (2.71 g, 27.3 mmol) in tetrahydrofuran was heated under reflux, and the mixture was stirred for 2 hr. After cooling to room temperature, the reaction solution was divided into two layers with ethyl acetate and saturated aqueous sodium hydrogen carbonate solution and subjected to extraction (3 times) with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography to give the title compound (4.42 g, 99%).

reactant | 2-(3-fluorophenyl)-3-methylpyridine 1-oxide | 21.0 mmol, 40 mL, 4.26 g | FC=1C=C(C=CC1)C1=[N+](C=CC=C1C)[O-] | C12H10FNO
reactant | dimethylcarbamic acid chloride | 27.3 mmol, 2.94 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilanecarbonitrile | 27.3 mmol, 2.71 g | C[Si](C#N)(C)C | C4H9NSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-fluorophenyl)-5-methylpyridine-2-carbonitrile | 4.42 g, 99% | FC=1C=C(C=CC1)C1=C(C=CC(=N1)C#N)C | C13H9FN2
